US05849755
3-(5-Chloro-2-methoxybenzamido)-6-(methylaminocarbonylaminosulfonyl)-7-methoxychroman
1.71 g (4 mmol) of 3-(5-chloro-2-methoxybenzamido)-6-sulfamoyl-7-methoxychroman were heated at 80° C. for 30 minutes in 10 ml of dry DMSO after addition of 0.4 g (10 mmol) of freshly powdered sodium hydroxide and 1.05 g (6 mmol) of N-methyltrichloroacetamide. The cooled reaction mixture was introduced into ice-water, clarified with active charcoal and acidified to pH 1. The precipitate was filtered off with suction, dried and recrystallized twice from ethanol. The product had a melting point of 256°-257° C.

reactant | 3-(5-chloro-2-methoxybenzamido)-6-sulfamoyl-7-methoxychroman | 4 mmol, 1.71 g | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=C(C=C3C2)S(N)(=O)=O)OC)C1)OC | C18H19ClN2O6S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-methyltrichloroacetamide | 6 mmol, 1.05 g | CNC(C(Cl)(Cl)Cl)=O | C3H4Cl3NO
reactant | charcoal | C | CH4
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 3-(5-Chloro-2-methoxybenzamido)-6-(methylaminocarbonylaminosulfonyl)-7-methoxychroman | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=C(C=C3C2)S(=O)(=O)NC(=O)NC)OC)C1)OC | C20H22ClN3O7S
